US05051413
2.0 g of E-2-amino-5-phosphono-3-pentenoic acid are placed in 50 ml of ethanol and the whole is saturated with hydrogen chloride gas for 21/2 hours at 50°. After concentration, the residue is dissolved in 18 ml of ethanol, 18 ml of propylene oxide are added and the precipitate is filtered off. Recrystallisation from water/ethanol 1:3 yields 2-amino-5-phosphono-3-pentenoic acid ethyl ester, m.p. 167°-168°.

reactant | E-2-amino-5-phosphono-3-pentenoic acid | 2.0 g | NC(C(=O)O)\C=C\CP(=O)(O)O | C5H10NO5P
reactant | hydrogen chloride | Cl | ClH
reactant | ethanol | 50 ml | C(C)O | C2H6O
product | 2-amino-5-phosphono-3-pentenoic acid ethyl ester | C(C)OC(C(C=CCP(=O)(O)O)N)=O | C7H14NO5P
